US04289914
PREPARATION OF 2-METHYL-2-(t-BUTYLPEROXY)-4-PENTANONE
Assay of the product by GLC indicated 76% product, 17% mesityl oxide, and 1% t-butyl hydroperoxide. The actual yield of product based on the t-butyl hydroperoxide consumed was 82%. Purification of product for GLC standard was accomplished by a double distillation under reduced pressure with a pot temperature of 40°±2° C. Fractions were collected and assayed. Micro analysis found: C, 64.10%; H, 11.10%; O, 24.96%. Calculated: C, 63.79; H, 10.71; O, 25.49; SN-7-249-95. cuts 5, 6, and 7 nD25 1.4170, cuts 1, 2, 3, 4 nD25 1.4167, 1.4167, 1.4167, 1.4169 respectively. Reference IR spectrum R-IR#6.

reactant | mesityl oxide | O=C(C)C=C(C)C | C6H10O
reactant | t-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
product | 2-METHYL-2-(t-BUTYLPEROXY)-4-PENTANONE | CC(C)(CC(C)=O)OOC(C)(C)C | C10H20O3
